US05565494
4-Fluorobenzenesulfonamide (5.50 g, 31.4 mmoles) was dissolved in 100 ml of morpholine (99.6 g, 1.14 moles) and was refluxed for 3 days. The solvent was removed by evaporation, yielding an orange oil. Methylene chloride (100 ml) was added, causing the oil to solidify. The solid was collected by filtration, then heated in 100 ml of ethanol. After cooling, the solid was collected by filtration, yielding 5.59 g (73%) of 4-(4-morpholinyl)benzenesulfonamide as a white solid.

reactant | 4-Fluorobenzenesulfonamide | 31.4 mmoles, 5.50 g | FC1=CC=C(C=C1)S(=O)(=O)N | C6H6FNO2S
reactant | morpholine | 1.14 moles, 100 ml, 99.6 g | N1CCOCC1 | C4H9NO
solvent | Methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-morpholinyl)benzenesulfonamide | 5.59 g, 73% | N1(CCOCC1)C1=CC=C(C=C1)S(=O)(=O)N | C10H14N2O3S
